datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C(/[C:11](=[CH:10]/[N+:61]2=[CH:61][CH:62]=[CH:63][C:73]3=[C:72]2C=CC=C3)[O-:12])C=C1.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[C:21]2[C:22](=[O:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]([C:11](C2=CC=CC=C2)=[O:12])[N+:61]2=[CH:61][CH:62]=[CH:63][C:73]3=[C:72]2C=CC=C3)[C:21]2=[C:22]([O-:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=S)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1.C[Ge:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Ge:73](C)(C)C>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[C:21]2=[C:22]([O-:23])[N:51](C)C(=S)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1.C[Ge:63](C)(C)[CH2:62][CH+:11][CH2:72][Ge:73](C)(C)C 10,11=10,20;20,21=21,22;22,23=23"
"COC1=CC(CC2C(=O)N(C)C(C)(C)/[N+:23]2=[CH:22]\[CH:21]=[CH:20]\[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=CC(OC)=C1OC.CO[C:64]1=[CH:63][CH:62]=[C:61]([O-:10])[CH:72]=[CH:73]1>>COC1=CC(CC2C(=O)N(C)C(C)(C)[N:23]2[CH:22]=[CH:21][CH:20]([O:10][C:61]2=[CH:62][CH:63]=[C:64](OC)[CH:73]=[CH:72]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=CC(OC)=C1OC 10=20;20,21=21,22;22,23=23"
"C1=CC2=C(C=C1)[C:32](=[O:33])[C:21](=[CH:20][C:41]1=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]1)[C:22]2=[O:23].Cl[C:64]1=[CH:63][CH:62]=[C:61]([NH2:10])[CH:72]=[CH:73]1>>Cl[C:64]1=[CH:63][CH:62]=[C:61]([NH2+:10][CH:20]([C:21]2=[C:22]([O-:23])C3=C(C=CC=C3)[C:32]2=[O:33])[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[CH:72]=[CH:73]1 10=20;20,21=21,22;22,23=23"
"CC1(C)[O:72][C:61](=[O:62])[C:10](CC2=CC=C([N+](=O)[O-])C=C2)=[C:11]([O-:12])[O:82]1.C[N+:23]1=[CH:22]/[C:21](=[CH:20]/[C:31]2=[CH:32][N:33](C)[C:42]3=[C:41]2C=CC=C3)C2=C1C=CC=C2>>CC1(C)[O:72][C:61](=[O:62])[C:10](CC2=CC=C([N+](=O)[O-])C=C2)([CH:20]([C:21]2=[CH:22][N:23](C)C3=C2C=CC=C3)[C:31]2=[CH:32][N:33](C)[C:42]3=[C:41]2C=CC=C3)[C:11](=[O:12])[O:82]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:22]([CH:21]=[CH2:20])=[O:23].C[Si:11](C)(CC1=CC=CC(Cl)=C1)[H:10]>>C[C:22](=[CH:21][CH2:20][H:10])[O-:23].C[Si+:11](C)CC1=CC=CC(Cl)=C1 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C(/[CH:20]=[CH:21]/[C:22]#[N:23])C=C1.CC[N+](CC)(CC)[BH-:11](Br)[H:10]>>C1=CC=C([CH:20]([H:10])[CH:21]=[C:22]=[N-:23])C=C1.CC[N+](CC)(CC)[BH:11]Br 10,11=10,20;20,21=21,22;22,23=23"
CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[C:61]1=[N:62][C:72](C)=[CH:71][N-:10]1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([N:10]2[C:61](C)=[N:62][C:72](C)=[CH:71]2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"C1C[O:33][C:22](=[O:23])[C:21]1=[CH2:20].C[C:61]([S-:10])=[O:62]>>C[C:61]([S:10][CH2:20][C:21]1=[C:22]([O-:23])[O:33]CC1)=[O:62] 10=20;20,21=21,22;22,23=23"
"Br[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1.CC1(C)[O:64][C:13]([O-:14])=[C:12]([CH:11]([H:10])[C:92]2=[CH:93][CH:94]=[C:95]([N:96](C)C)[CH:104]=[CH:103]2)[C:73](=[O:74])[O:84]1>>Br[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[CH:21]=[N+:22]([O-:23])[O-:33])[CH:46]=[CH:45]1.CC1(C)[O:64][C:13](=[O:14])[C:12](=[CH:11][C:92]2=[CH:93][CH:94]=[C:95]([N:96](C)C)[CH:104]=[CH:103]2)[C:73](=[O:74])[O:84]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C(C)(C)C)[C:24](=[O:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1.C[C:81]([CH-:10][N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)=[O:82]>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10]([N+:71]2=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]2)[C:81](C)=[O:82])[C:21]2=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"CC1=CC=[C:10]([B-:11]2(C3=CC=CC=C3)[O:12]C(C)(C)C(C)(C)[O:62]2)S1.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=CC=C2)=[O+:12]1.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([C:10]2=CC=C(C)S2)[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"CC(C)[Si:63](C(C)C)(C(C)C)[CH2:62][CH:11]=[CH2:10].FC(F)(F)[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1>>CC(C)[Si:63](C(C)C)(C(C)C)[CH2:62][CH+:11][CH2:10][C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](C(F)(F)F)=[CH:54][CH:55]=[CH:56]1 10,11=10,20"
C1=CC=C([C+:20]2[S:31]CCC[S:41]2)C=C1.CC(C)[OH:10]>>CC(C)[OH+:10][C:20]1(C2=CC=CC=C2)[S:31]CCC[S:41]1 10=20
